*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.20e-03[uF]/100[V]
* Murata P/N :GCM2162C2A122JA01
* Property : C = 1.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A122JA01 Port1 Port2
C01 Port1 N01 1.17e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.05e-10
R03 N02 N03 2.00e-02
L04 N03 N04 7.29e-11
R04 N03 N04 3.43e-02
C05 N04 N05 5.94e-09
L05 N04 N05 1.11e-11
R05 N04 N05 1.64e-01
C06 N05 N06 7.50e-10
L06 N05 N06 2.51e-11
R06 N05 N06 3.71e-01
C07 N06 N07 1.06e-12
L07 N06 N07 2.14e-10
R07 N06 N07 1.00e+05
C08 N07 Port2 3.91e-12
L08 N07 Port2 5.02e-11
R08 N07 Port2 1.13e+00
.ENDS GCM2162C2A122JA01
